US08912330B2
N-(2,6-dichloro-3-fluorobenzyl)-6-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]-1H-pyrrolo[3,2-b]pyridin-1-amine:
A solution of N-[(E)-(2,6-dichloro-3-fluorophenyl)methylidene]-6-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]-1H-pyrrolo[3,2-b]pyridin-1-amine (35 mg, 0.063 mmol) in MeOH (5 mL) was treated with excess amount of NaBH4 under reflux. HPLC check indicated disappearance of the starting material. The mixture was diluted with aqueous NaHCO3, and extracted with ethyl acetate. The organic solution was dried and evaporated.

reactant | N-[(E)-(2,6-dichloro-3-fluorophenyl)methylidene]-6-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]-1H-pyrrolo[3,2-b]pyridin-1-amine | 0.063 mmol, 35 mg | ClC1=C(C(=CC=C1F)Cl)\C=N\N1C=CC2=NC=C(C=C21)C=2C=NN(C2)C2CCNCC2 | C22H19Cl2FN6
reactant | NaBH4 | [BH4-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N-(2,6-dichloro-3-fluorobenzyl)-6-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]-1H-pyrrolo[3,2-b]pyridin-1-amine | ClC1=C(CNN2C=CC3=NC=C(C=C32)C=3C=NN(C3)C3CCNCC3)C(=CC=C1F)Cl | C22H21Cl2FN6
